datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[n+]1ccc2ccc([O:21][H:20])cc2c1.Cc1ccccc1[N-:10]N=C(C#N)C#N>>C[n+]1ccc2ccc([O-:21])cc2c1.Cc1ccccc1[N:10](N=C(C#N)C#N)[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCCNCCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCCNCCC[NH2+:10][H:20] 10=20;20,21=21",
"C=C[C@H]1C[NH+]2CC[C@@H]1C[C@H]2[C@H](O)c1cc[n:10]c2ccc(OC)cc12.Cc1nnc(C)n1[O:21][H:20]>>C=C[C@H]1C[NH+]2CC[C@@H]1C[C@H]2[C@H](O)c1cc[n+:10]([H:20])c2ccc(OC)cc12.Cc1nnc(C)n1[O-:21] 10=20;20,21=21",
"C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2:10].O/N=C/c1cc[n+:21]([H:20])c2ccccc12>>C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2+:10][H:20].O/N=C/c1cc[n:21]c2ccccc12 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)ncc1cc([O-:10])ccc12>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)ncc1cc([O:10][H:20])ccc12 10=20;20,21=21",
"COc1ccc(B(O)[O:21][H:20])cc1.Cc1ccc(C(C)C)c(OCC[N:10](C)C)c1>>COc1ccc(B(O)[O-:21])cc1.Cc1ccc(C(C)C)c(OCC[N+:10](C)(C)[H:20])c1 10=20;20,21=21",
"C(Nc1ccccc1)=[N+:21](c1ccccc1)[H:20].NC(=O)C(N)CCC(=O)[O-:10]>>C(Nc1ccccc1)=[N:21]c1ccccc1.NC(=O)C(N)CCC(=O)[O:10][H:20] 10=20;20,21=21",
"CNCC[NH:10]C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CNCC[NH+:10](C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC[N:10](CC)CC[S-].O[n+]1ccccc1[O:21][H:20]>>CC[N+:10](CC)(CC[S-])[H:20].O[n+]1ccccc1[O-:21] 10=20;20,21=21",
"C=CC#CCC(=O)[O-:10].[NH3+]c1ccccc1C(=O)[O:21][H:20]>>C=CC#CCC(=O)[O:10][H:20].[NH3+]c1ccccc1C(=O)[O-:21] 10=20;20,21=21",
"[H:20][O:21]C(=O)CCl.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.C(C(=O)[O-:21])Cl 10=20;20,21=21",
"Cc1ccc(C[NH:10]C)cc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>Cc1ccc(C[NH+:10](C)[H:20])cc1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])c(C[NH2+:21][H:20])c1.COc1ccc([N-:10]C(=S)c2ccccc2)cc1>>COc1ccc([N+](=O)[O-])c(C[NH2:21])c1.COc1ccc([N:10](C(=S)c2ccccc2)[H:20])cc1 10=20;20,21=21",
"COCC1=C(C(=O)[O-:10])CCC1.C[Si](C)(C)CCCCC(=O)[O:21][H:20]>>COCC1=C(C(=O)[O:10][H:20])CCC1.C[Si](C)(C)CCCCC(=O)[O-:21] 10=20;20,21=21",
"CC(=O)CCC(=O)[O-:10].CCCCCC[N+:21](CCCCCC)(c1ccccc1)[H:20]>>CC(=O)CCC(=O)[O:10][H:20].CCCCCC[N:21](CCCCCC)c1ccccc1 10=20;20,21=21",
"CC[N+:21]1([H:20])CCCC1CNC(=O)c1cc(S(N)(=O)=O)ccc1OC.Cc1cc(-c2cccc[n:10]2)nn1C>>CC[N:21]1CCCC1CNC(=O)c1cc(S(N)(=O)=O)ccc1OC.Cc1cc(-c2cccc[n+:10]2[H:20])nn1C 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)C=C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C=CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCCCC[N+:21](CC(C)O)(CC(O)CC)[H:20].Cc1ccc([NH:10]C(C)(C)C)cc1>>CCCCCC[N:21](CC(C)O)CC(O)CC.Cc1ccc([NH+:10](C(C)(C)C)[H:20])cc1 10=20;20,21=21",
"CC[N+:21](CC)(CCCCC#N)[H:20].O=C1CCC[C@H]2[C@H]3C[C@@H](CN12)[C@@H]1CCCC[N:10]1C3>>CC[N:21](CC)CCCCC#N.O=C1CCC[C@H]2[C@H]3C[C@@H](CN12)[C@@H]1CCCC[N+:10]1([H:20])C3 10=20;20,21=21",
"CCCCC[N+:21](CCO)(CC(O)CC)[H:20].C[Si](C)(C)OC1C[N:10](Cc2ccc(Cl)cc2)C1>>CCCCC[N:21](CCO)CC(O)CC.C[Si](C)(C)OC1C[N+:10](Cc2ccc(Cl)cc2)([H:20])C1 10=20;20,21=21",
"CCCCSCC(=O)[O-:10].Cc1c(NCCC[NH+](C)C)c2c([N+](=O)[O-])cccc2[n+:21]([H:20])c1C>>CCCCSCC(=O)[O:10][H:20].Cc1c(NCCC[NH+](C)C)c2c([N+](=O)[O-])cccc2[n:21]c1C 10=20;20,21=21",
"C=CC(C)(C)[NH+:21](c1ccccc1)[H:20].O=C1/C(=N\[O-:10])C=C(S(=O)(=O)[O-])c2cn[nH]c21>>C=CC(C)(C)[NH:21]c1ccccc1.O=C1/C(=N\[O:10][H:20])C=C(S(=O)(=O)[O-])c2cn[nH]c21 10=20;20,21=21",
"BrCCCC[NH2:10].O=[PH]([O-])C([NH2+]Cc1cc[n+:21]([H:20])cc1)c1ccccc1O>>BrCCCC[NH2+:10][H:20].O=[PH]([O-])C([NH2+]Cc1cc[n:21]cc1)c1ccccc1O 10=20;20,21=21",
"CC(=O)NC(Cc1c[nH]c[n:10]1)C(=O)[O-].Cc1ccc([NH2+:21][H:20])cc1>>CC(=O)NC(Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-].Cc1ccc([NH2:21])cc1 10=20;20,21=21",
"CCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C(C(F)(F)F)C=C1)[H:20]>>CCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C(C(F)(F)F)C=C1 10=20;20,21=21",
"CCOP(=O)([O-])[N-:10]S(=O)(=O)c1ccccc1.OCC[N+:21](CCO)(CCc1nnn[nH]1)[H:20]>>CCOP(=O)([O-])[N:10](S(=O)(=O)c1ccccc1)[H:20].OCC[N:21](CCO)CCc1nnn[nH]1 10=20;20,21=21",
"CC1(C)NC(=S)[N:21]([H:20])C1=S.O=C([O-])[C@H](P)CC[C@H](P)C(=O)[O-:10]>>CC1(C)NC(=S)[N-:21]C1=S.O=C([O-])[C@H](P)CC[C@H](P)C(=O)[O:10][H:20] 10=20;20,21=21",
"C[NH+]1C[C@H](C(=O)[O:21][H:20])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12.O=C([O-])c1ccc([O-:10])c2ncccc12>>C[NH+]1C[C@H](C(=O)[O-:21])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12.O=C([O-])c1ccc([O:10][H:20])c2ncccc12 10=20;20,21=21",
"Cc1ccc(C(=O)c2ccccc2C(=O)[O:21][H:20])cc1.OCC(O)C[NH2:10]>>Cc1ccc(C(=O)c2ccccc2C(=O)[O-:21])cc1.OCC(O)C[NH2+:10][H:20] 10=20;20,21=21",
"NS(=O)(=O)c1cc2c(cc1Cl)N=C[N:21]([H:20])S2(=O)=O.O=C(c1cccc(Br)c1)[O-:10]>>NS(=O)(=O)c1cc2c(cc1Cl)N=C[N-:21]S2(=O)=O.O=C(c1cccc(Br)c1)[O:10][H:20] 10=20;20,21=21",
"CCCCCCCCCC(=O)[O:21][H:20].CCCCC[N:10](CCO)CC(C)O>>CCCCCCCCCC(=O)[O-:21].CCCCC[N+:10](CCO)(CC(C)O)[H:20] 10=20;20,21=21",
